US05364844
4(S)-Isopropyl-3-[3-(4-methoxyphenyl)-1-oxobutyl]-2-oxazolidinone
18.19 ml (29.1 mmoles) of butyllithium (as a 1.6M hexane solution) were added dropwise at -78° C. and under an atmosphere of nitrogen to a solution of 3.13 g (24.2 mmoles) of 4(S)-isopropyl-2-oxazolidinone in 50 ml of anhydrous tetrahydrofuran, and then the mixture was stirred for 30 minutes. At the end of this time, a solution of 5.43 g (29.1 mmoles) of 3-(4-methoxyphenyl)propionyl chloride in 20 ml of anhydrous tetrahydrofuran was added dropwise to the resulting mixture over the course of 10 minutes. The mixture was then stirred for a further 1 hour, after which a saturated aqueous solution of ammonium chloride was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by medium pressure silica gel column chromatography (using a 1:3 by volume mixture of ethyl acetate and hexane as eluent), followed by recrystallization from diisopropyl ether, to give 5.63 g (yield 80%) of the title compound as white crystals, melting at 62.0°-63.5° C.

reactant | butyllithium | 29.1 mmoles, 18.19 ml | C(CCC)[Li]
reactant | 4(S)-isopropyl-2-oxazolidinone | 24.2 mmoles, 3.13 g | C(C)(C)[C@@H]1NC(OC1)=O | C6H11NO2
reactant | 3-(4-methoxyphenyl)propionyl chloride | 29.1 mmoles, 5.43 g | COC1=CC=C(C=C1)CCC(=O)Cl | C10H11ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | 4(S)-Isopropyl-3-[3-(4-methoxyphenyl)-1-oxobutyl]-2-oxazolidinone | 5.63 g, yield 80% | C(C)(C)[C@@H]1N(C(OC1)=O)C(CC(C)C1=CC=C(C=C1)OC)=O | C17H23NO4
